US06414149B1
Step C: (R)-1-[4-(6-Thiophen-3-yl-3,4-dihydro-1H-isoquinolin-2-yl)-pyrimidin-2-yl]-ethyl acetate
To a solution of 6-thiophen-3-yl-3,4-dihydro-1H-isoquinoline hydrochloride (prepared according to the method of Example 248, Step B, 170 mg, 0.68 mmol) in isopropanol (6 mL) was added (R)-1-(4-chloro-pyrimidin-2-yl)-ethyl acetate (prepared according to the method of Preparation Five, 136 mg, 0.68 mmol) followed by triethylamine (0.28 mL, 2.04 mmol). This mixture was stirred at reflux for 7 h, cooled to room temperature overnight, evaporated, and purified by flash column chromatography (0.5→1% methanol/chloroform) to give 253 mg (98%) of the title compound of Example 248, Step C as a yellow solid. 1H NMR (CDCl3, 250 MHz) δ8.26 (d, 1H), 7.52-7.36 (c, 6H), 6.43 (d, 1H), 5.73 (q, 1H), 4.76 (s, 2H), 3.96-3.82 (c, 2H), 3.02 (t, 2H), 2.21 (s, 3H), 1.63 (d, 3H); MS (TS) 380 (MH+).

reactant | 6-thiophen-3-yl-3,4-dihydro-1H-isoquinoline hydrochloride | Cl.S1C=C(C=C1)C=1C=C2CCNCC2=CC1
reactant | (R)-1-(4-chloro-pyrimidin-2-yl)-ethyl acetate | C(C)(=O)O[C@H](C)C1=NC=CC(=N1)Cl | C8H9ClN2O2
reactant | triethylamine | 2.04 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 6 mL | C(C)(C)O | C3H8O
product | (R)-1-[4-(6-Thiophen-3-yl-3,4-dihydro-1H-isoquinolin-2-yl)-pyrimidin-2-yl]-ethyl acetate | 253 mg, 98% | C(C)(=O)O[C@H](C)C1=NC=CC(=N1)N1CC2=CC=C(C=C2CC1)C1=CSC=C1 | C21H21N3O2S
